US06172064B2
To a solution of (2R,3S)-2-(3-(4-chlorophenyl)-1-propyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid (380 mg, 1.07 mmol) in pyridine (4 mL) at 0° C. is added formic acetic anhydride (0.9 mL). The resulting solution is allowed to warm to 25° C., stirred for 3 h, and then concentrated to dryness under reduced pressure. The resulting gum is dissolved in ethyl acetate (30 mL) and washed sequentially with 1 M hydrochloric acid (20 mL) and saturated aqueous sodium chloride solution. The organic layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide (2R,3S)-2-(3-(4-chlorophenyl)-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)butanoic acid as an oil (385 mg, 94% yield).

reactant | (2R,3S)-2-(3-(4-chlorophenyl)-1-propyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid | 1.07 mmol, 380 mg | ClC1=CC=C(C=C1)CCC[C@@H](C(=O)O)[C@H](C)NOC1OCCCC1 | C18H26ClNO4
reactant | formic acetic anhydride | 0.9 mL | C(C)(=O)OC=O | C3H4O3
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | (2R,3S)-2-(3-(4-chlorophenyl)-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)butanoic acid | 385 mg, 94% yield | ClC1=CC=C(C=C1)CCC[C@@H](C(=O)O)[C@H](C)N(OC1OCCCC1)C=O | C19H26ClNO5
